US08981084B2
Pyrrolidine-3-carboxylic acid methyl ester (100 mg, 0.77 mmol) was dissolved in dry DMF (0.5 MI) in a shield tube. 6-Bromonicotinonitrile (140 mg, 077 mmol) was added to the reaction mixture, followed by 2,2,6,6-tetramethylpiperadine (110 mg, 0.77 mmol) and the mixture was heated to 130° C. for 3 h, cooled to room temperature, and diluted with EtOAc. The organic layer was washed with H2O and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The crude product was purified by column chromatography (silica gel 60-120 mesh, eluent 15-18% EtOAc in petroleum ether) to afford methyl 1-(5-cyanopyridin-2-yl)pyrrolidine-3-carboxylate (90 mg, yield 70%). 1H NMR (300 MHz, CDCl3) δ 8.42 (d, J=2.2 Hz, 1H), 7.62-7.59 (dd, J=8.9 Hz, J=2.3 Hz, 1H), 6.36 (d, J=9.0 Hz, 1H), 3.78-3.77 (m, 2H), 3.75 (s, 3H), 3.67 (m, 1H), 3.56-3.52 (m, 1H), 3.28-3.23 (t, J=7.1 Hz, 1H), 2.37-2.30 (q, J=7.1 Hz, 2H). MS (ESI) m/z: Calculated for C12H13N3O2: 231.10. found: 232.2 (M+H)+

reactant | Pyrrolidine-3-carboxylic acid methyl ester | 0.77 mmol, 100 mg | COC(=O)C1CNCC1 | C6H11NO2
reactant | 6-Bromonicotinonitrile | 140 mg | BrC1=NC=C(C#N)C=C1 | C6H3BrN2
reactant | 2,2,6,6-tetramethylpiperadine | 0.77 mmol, 110 mg | CC1(NC(CCC1)(C)C)C | C9H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 1-(5-cyanopyridin-2-yl)pyrrolidine-3-carboxylate | 90 mg, yield 70% | C(#N)C=1C=CC(=NC1)N1CC(CC1)C(=O)OC | C12H13N3O2
